US06670372B2
(2R)-2-(1H-Imidazo[4,5-c]quinolin-1-yl)butan-1-ol (19 g, 78.8 mmol) was added to a mixture of sodium hydroxide (124 mL of 50%), dichloromethane (150 mL), benzyltrimethyl ammonium chloride (0.73 g), and propargyl bromide (11.4 mL, 102 mmol). The reaction mixture was allowed to stir at ambient temperature overnight. The reaction mixture was diluted with dichloromethane and water. The aqueous fraction was extracted multiple times with dichloromethane. The organic fractions were combined, washed with water, dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was purified by column chromatography eluting with ethyl acetate to provide 20.9 g of 1-{(1R)-1-[(prop-2-ynyloxy)methyl]propyl}-1H-imidazo[4,5-c]quinoline as a brown liquid.

reactant | (2R)-2-(1H-Imidazo[4,5-c]quinolin-1-yl)butan-1-ol | 78.8 mmol, 19 g | N1(C=NC=2C=NC=3C=CC=CC3C21)[C@@H](CO)CC | C14H15N3O
reactant | sodium hydroxide | 124 mL | [OH-].[Na+]
reactant | propargyl bromide | 102 mmol, 11.4 mL | C(C#C)Br | C3H3Br
catalyst | benzyltrimethyl ammonium chloride | 0.73 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-{(1R)-1-[(prop-2-ynyloxy)methyl]propyl}-1H-imidazo[4,5-c]quinoline | 20.9 g | C(C#C)OC[C@@H](CC)N1C=NC=2C=NC=3C=CC=CC3C21 | C17H17N3O
